US08471005B2
[4-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(4-methyl-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine was prepared from (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine and 4-methylpyridine-3-boronic acid in an analogous manner to Example 1031b. Product isolated as a yellow foam (28 mg, 25%). LCMS (m/e) 400 (M+H); 1H-NMR (CDCl3, 400 MHz) δ 8.75-8.69 (m, 2H), 8.58-8.52 (m, 1H), 7.35 (d, 2H, J=7.5 Hz), 7.31-7.25 (m, 1H), 6.88-6.79 (m, 3H), 6.79-6.74 (m, 1H), 6.65 (s, 1H), 3.17-3.10 (m, 4H), 2.61-2.54 (m, 4H), 2.35 (s, 3H), 2.30 (s, 3H).

reactant | (7-bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | 4-methylpyridine-3-boronic acid | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
product | [4-(4-Methyl-piperazin-1-yl)-phenyl]-[7-(4-methyl-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC=CC2C | C23H25N7
